US08461134B2
4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-((5-methyl-1,3,4-oxadiazol-2-yl)methyl)benzenesulfonamide
A solution of 2,2,2-trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-((5-methyl-1,3,4-oxadiazol-2-yl)methyl)phenyl)acetamide (300 mg, 0.60 mmol) in 7M ammonium in MeOH (10 mL) was stirred in a sealed tube at 50° C. for 16 hours. After concentrated, the crude mixture was purified by prep HPLC (SunFire Prep C18 OBD 5 uM 30×50 mm column) to give the title compound as a yellow solid (90 mg, yield 37%). MS calcd for (C14H17BN4O5S): 400.2. MS found (ESI negative): (M−H)−=399.1. 1H NMR (DMSO-d6) δ (ppm): 10.0 (s, 1H), 9.20 (bs, 1H), 7.56 (d, J=8.8 Hz, 1H), 7.42 (s, 1H), 7.22 (d, J=8.4 Hz, 1H), 7.11 (d, J=8.4 Hz, 1H), 6.41 (d, J=8.4 Hz, 1H), 6.26 (s, 1H), 4.85 (s, 2H), 4.41 (s, 2H), 2.39 (s, 3H)

reactant | 2,2,2-trifluoro-N-(4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)-3-((5-methyl-1,3,4-oxadiazol-2-yl)methyl)phenyl)acetamide | 0.60 mmol, 300 mg | FC(C(=O)NC1=CC(=C(C=C1)S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O)CC=1OC(=NN1)C)(F)F | C19H16BF3N4O6S
solvent | ammonium | 7M | [NH4+]
solvent | MeOH | 10 mL | CO | CH4O
product | 4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-((5-methyl-1,3,4-oxadiazol-2-yl)methyl)benzenesulfonamide | 90 mg, yield 37% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CC=1OC(=NN1)C | C17H17BN4O5S
